US04866089
Preparation of 7-methoxy-2,2,8-trimethyl-4-chromanone
The reaction is carried out under nitrogen. In 50 ml of a 10% sodium hydroxide solution 4.9 g (20 millimoles) of 7-hydroxy-2,2,8-trimethyl-4-chromanone are dissolved, 2.6 g (2 ml, 21 millimoles) of dimethyl sulfate are added and the reaction mixture is vigorously stirred for 2 hours. The reaction mixture is diluted with 100 ml of icecold water and extracted three times with 50 ml of carbon tetrachloride each. The organic phase is washed twice with 50 ml of water each, dried over sodium sulfate, the solvent is removed and the residue crystallized from 90% methanol. Thus 3.4 g of the desired compound are obtained, yield 78%. Mp.: 105°-107° C.

reactant | sodium hydroxide | 20 millimoles, 4.9 g | [OH-].[Na+]
reactant | dimethyl sulfate | 21 millimoles, 2 ml, 2.6 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 7-hydroxy-2,2,8-trimethyl-4-chromanone | OC1=CC=C2C(CC(OC2=C1C)(C)C)=O | C12H14O3
solvent | water | 100 ml | O | H2O
product | 7-methoxy-2,2,8-trimethyl-4-chromanone | 3.4 g, yield 78% | COC1=CC=C2C(CC(OC2=C1C)(C)C)=O | C13H16O3
